US07399865B2
2-Acetamido-5-nitrophenol
To 400 g of 2-amino-5-nitrophenol in a 5-L multi-necked flask equipped with a mechanical stirrer, reflux condenser, nitrogen inlet, 500-mL addition funnel, heating mantle, and a thermocouple attached to a temperature controller was added 1.6 L of acetic acid. The mixture was stirred at 60° C. as 398 g of acetic anhydride was added over 1.5 hours. After 1 hour, another 37 g of acetic anhydride was added. After another 1 hour, the mixture was cooled and diluted with 2 L of water. Solid was collected by filtration and washed with water and heptane. The solid was dried in a vacuum oven to give 509 g of the title compound.

reactant | 2-amino-5-nitrophenol | 400 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | acetic acid | 1.6 L | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 398 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 37 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 2 L | O | H2O
product | 2-Acetamido-5-nitrophenol | 509 g | C(C)(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O | C8H8N2O4
